US03975543
The procedure of Example 3 was repeated, except that the 4'-(2-chlorophenyl)acetophenone was replaced with an equal amount of 4'-chlorophenyl)acetophenone, the amount of benzene employed was increased to 200 ml., and the amount of sulfuric acid was reduced to 5 drops. After seven hours, hydrogen pressure had dropped to 35.5 psig. Evaporation of the benzene left a solid which, according to nuclear magnetic resonance analysis, contained only about 67 percent of the desired ethylbenzene. Consequently, the solid was subjected to the hydrogenation procedure again, using 200 ml. of benzene, 2 g. of catalyst, and 1 ml. of concentrated sulfuric acid. The solid obtained upon evaporation of the benzene was recrystallized from hexane, giving 1-ethyl-4-(4-chlorophenyl)benzene, mp 103°-104°. The following elemental analysis was obtained:

reactant | 4'-(2-chlorophenyl)acetophenone | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H11ClO
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-ethyl-4-(4-chlorophenyl)benzene | C(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C14H13Cl
